US06121309
4,7-Dimethylbenzofuran-2-carbaldehyde
To 200 ml of a solution of 17.4 g of 3,6-dimethylsalicylaldehyde in N,N-dimethyformamide were added 32 g of anhydrous potassium carbonate and 17.8 ml of bromoacetaldehyde diethyl acetal. The resulting mixture was stirred at 150° C. for 2.5 hours, cooled to room temperature by allowing to stand, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography to give 23.4 g of an ether. This ether was dissolved in 120 ml of acetic acid. The resulting solution was refluxed under nitrogen stream for 8 hours, cooled to room temperature by allowing to stand, and poured into a saturated aqueous solution of sodium bicarbonate. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The resulting crude product was washed with hexane to give 7.8 g of the title compound as a pale yellow solid.

reactant | 3,6-dimethylsalicylaldehyde | 17.4 g | CC1=C(C(C=O)=C(C=C1)C)O | C9H10O2
reactant | potassium carbonate | 32 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetaldehyde diethyl acetal | 17.8 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethyformamide | CN(C=O)C | C3H7NO
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 4,7-Dimethylbenzofuran-2-carbaldehyde | 7.8 g | CC1=CC=C(C2=C1C=C(O2)C=O)C | C11H10O2
